US07700589B2
N-[1-[(R)-2-[1,4′]bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethylamino]-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide
Prepared analogously to Example 73 from 3-piperidin-4-yl-1,3,4,5-tetrahydrobenzo[d][1,3]diazepin-2-one and (R)-2-amino-1-[1,4′]bipiperidinyl-1′-yl-3-(3,4-diethylphenyl)-propan-1-one

reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydrobenzo[d][1,3]diazepin-2-one | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | (R)-2-amino-1-[1,4′]bipiperidinyl-1′-yl-3-(3,4-diethylphenyl)-propan-1-one | N[C@@H](C(=O)N1CCC(CC1)N1CCCCC1)CC1=CC(=C(C=C1)CC)CC | C23H37N3O
product | N-[1-[(R)-2-[1,4′]bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethylamino]-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide | N1(CCCCC1)C1CCN(CC1)C([C@@H](CC1=CC(=C(C=C1)CC)CC)N/C(/N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=N/C#N)=O | C39H54N8O2
